US09371320B2
C) 1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate
To a solution of 1-(2,6-difluorophenyl)-4-methoxy-1,2-dihydro-3H-pyrazolo[4,3-c]pyridin-3-one (276 mg) and pyridine (0.321 mL) in acetonitrile (25 mL) was added trifluoromethanesulfonic anhydride (0.336 mL), and the mixture was stirred at 0° C. for 1 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (408 mg).

reactant | 1-(2,6-difluorophenyl)-4-methoxy-1,2-dihydro-3H-pyrazolo[4,3-c]pyridin-3-one | 276 mg | FC1=C(C(=CC=C1)F)N1NC(C=2C(=NC=CC21)OC)=O | C13H9F2N3O2
reactant | pyridine | 0.321 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.336 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate | 408 mg | FC(S(=O)(=O)OC1=NN(C2=C1C(=NC=C2)OC)C2=C(C=CC=C2F)F)(F)F | C14H8F5N3O4S
